US08466169B2
30b) 1-[3-Morpholin-4-yl-5-(pentafluorosulfanyl)phenyl]ethanone
N-Methoxy-N-methyl-3-morpholin-4-yl-5-(pentafluorosulfanyl)benzamide (2.38 g) was dissolved in THF (50 ml), methylmagnesium bromide (4.22 ml, 3 M in ether) was added dropwise at 0° C. and then the mixture was stirred at RT for 2 h. Then 1N hydrochloric acid (100 ml) was added, and the mixture was diluted with water and extracted by shaking three times with EA. Thereafter, the combined EA phases were dried over magnesium sulfate, filtered and concentrated. The residue was purified using silica gel (80 g cartridge, n-heptane/EA gradient of 0-70% within 40 min). 1.1 g of the title compound were obtained.

reactant | N-Methoxy-N-methyl-3-morpholin-4-yl-5-(pentafluorosulfanyl)benzamide | 2.38 g | CON(C(C1=CC(=CC(=C1)S(F)(F)(F)(F)F)N1CCOCC1)=O)C | C13H17F5N2O3S
reactant | methylmagnesium bromide | 3 M, 4.22 ml | C[Mg]Br
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-[3-Morpholin-4-yl-5-(pentafluorosulfanyl)phenyl]ethanone | 1.1 g | N1(CCOCC1)C=1C=C(C=C(C1)S(F)(F)(F)(F)F)C(C)=O | C12H14F5NO2S
